US06727256B1
(6-(5-(1,3-Dioxolan-2-yl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-(4-(4-fluorobenzyloxy)-phenyl)-amine
(6-Chloropyrido[3,4-d]pyrimidin-4-yl)-(4-(4-fluorobenzyloxy)-phenyl)-amine (1.82 g) and 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)-furan (3.75 g) in dioxan (40 ml) were reacted together as in Procedure B. The mixture was evaporated and the residue suspended in dichloromethane. This was then filtered through celite and the solvent evaporated. The gummy residue was then triturated with hexane giving a beige solid (1.21 g); m/z 485 (M+1)+.

reactant | (6-Chloropyrido[3,4-d]pyrimidin-4-yl)-(4-(4-fluorobenzyloxy)-phenyl)-amine | 1.82 g | ClC1=CC2=C(N=CN=C2NC2=CC=C(C=C2)OCC2=CC=C(C=C2)F)C=N1 | C20H14ClFN4O
reactant | 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)-furan | 3.75 g | O1C(OCC1)C1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
product | (6-(5-(1,3-Dioxolan-2-yl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-(4-(4-fluorobenzyloxy)-phenyl)-amine | O1C(OCC1)C1=CC=C(O1)C1=CC2=C(N=CN=C2NC2=CC=C(C=C2)OCC2=CC=C(C=C2)F)C=N1 | C27H21FN4O4
